US06251926B1
Carbonyldiimidazole (7.25 g) was added to a solution of nicotinic acid (5.00 g) in tetrahydrofuran (100 ml) at 0° C. After stirring at room temperature for 2 hours, the mixture was added dropwise to a solution lithiated tert-butyl acetate prepared from tert-butyl acetate (17.5 ml) and lithium diisopropylamide (2N tetrahydrofuran solution, 65 ml) −78° C. over 1 hour. After stirring for 15 minutes, 1N hydrochloric acid (250 ml) was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was dissolved in tetrahydrofuran (100 ml), sodium hydride (60% in oil, 1.38 g) was added at 0° C. and stirred for 10 minutes. Ethyl bromoacetate (3.33 ml) was added to the mixture, and the reaction mixture was stirred at room temperature for 3 hours, 0.1N hydrochloric acid (350 ml) was added and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain an oil from an ethyl acetate-hexane (1:1, v/v)-eluted fraction. This oil was dissolved in toluene (150 ml), and trifluoroaceic acid (7.68 ml) was added and then the resultant was stirred at 90° C. for 4 hours. An aqueous saturated solution of sodium bicarbonate was added to the reaction mixture and extracted with ethyl acetate. The ethyl acetate layer was washed with an aqueous saturated solution of sodium chloride, dried (MgSO4) and concentrated. The residue was subjected to silica gel chromatography to obtain ethyl 4-oxo-4-(3-pyridyl)butyrate (3.39 g, yield 38%) as a colorless oil from an ethyl acetate-hexane (2:1, v/v)-eluted fraction.

reactant | Carbonyldiimidazole | 7.25 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | nicotinic acid | 5.00 g | C(C1=CN=CC=C1)(=O)O | C6H5NO2
reactant | tert-butyl acetate | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | tert-butyl acetate | 17.5 ml | C(C)(=O)OC(C)(C)C | C6H12O2
reactant | lithium diisopropylamide | 2N, 65 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | hydrochloric acid | 1N, 250 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | ethyl 4-oxo-4-(3-pyridyl)butyrate | 3.39 g, yield 38% | O=C(CCC(=O)OCC)C=1C=NC=CC1 | C11H13NO3
